US03970653
Preparation of Trisodium α-Methoxy-β-Sulfosuccinate
Sulfomaleic anhydride, 3.9 gm, was dissolved in 25 ml of methanol and refluxed for 5 hours. Then, 24 gm of 25% sodium methoxide in methanol was added and the solution was refluxed for 2 hours. The methanol was then evaporated and the residue was dissolved in 100 ml of water and heated for 1 hour at 80°C. The solution was then decolorized with 5 gm of charcoal, filtered and evaporated. The crude residue of trisodium α-methoxy-β-sulfosuccinate was purified by trituration with acetic acid and then filtered, washed with acetone and dried.

reactant | Sulfomaleic anhydride | S(=O)(=O)(O)/C=1/C(=O)OC(\C1)=O | C4H2O6S
reactant | sodium methoxide | 24 gm | C[O-].[Na+]
reactant | methanol | 25 ml | CO | CH4O
product | Trisodium α-Methoxy-β-Sulfosuccinate | COC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O.[Na+].[Na+].[Na+] | InChI=1S/C5H8O8S.3Na/c1-13-2(4(6)7)3(5(8)9)14(10,11)12;;;/h2-3H,1H3,(H,6,7)(H,8,9)(H,10,11,12);;;/q;3*+1/p-2
